US06987116B2
A mixture of methyl 4-(5-cyano-4-oxo-4,7-dihydrothieno[2,3-b]pyridin-2-yl)butanoate (136 mg) and 2 drops of N,N-dimethylformamide in 5 mL of phosphorous oxychloride is heated at reflux for 10 minutes and concentrated. To the residue is added dichloromethane and the solution is washed with 1% aqueous sodium bicarbonate solution. The organic layer is dried and concentrated. The residue is purified by flash column chromatography eluting with dichloromethane to provide 126 mg of 4-(4-chloro-5-cyano-thieno[2,3-b]pyridin-2-yl)-butyric acid methyl ester as a tan solid, mp 55-57° C.; 1H NMR (DMSO-d6) δ 1.98 (quintet, J=7 Hz, 2H), 2.42 (t, J=7 Hz, 2H), 3.04 (t, J=7 Hz, 2H), 3.59 (s, 3H), 7.42 (s, 1H), 8.94 (s, 1H); MS 295.1 (M+H)+.

reactant | methyl 4-(5-cyano-4-oxo-4,7-dihydrothieno[2,3-b]pyridin-2-yl)butanoate | 136 mg | C(#N)C=1C(C2=C(NC1)SC(=C2)CCCC(=O)OC)=O | C13H12N2O3S
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-(4-chloro-5-cyano-thieno[2,3-b]pyridin-2-yl)-butyric acid methyl ester | 126 mg | COC(CCCC1=CC=2C(=NC=C(C2Cl)C#N)S1)=O | C13H11ClN2O2S
